US04461905
2.2 g of 1-acetylimidazole and 5.46 g of ethyl 4-bromomethylphenoxyacetate were added to 5 ml of dry acetonitrile, and the mixture was heated at 60° C. for 2 hours. After completion of the reaction, the solvent was evaporated under reduced pressure. The residue was triturated with an adequate amount of dry diethyl ether and the resulting powder was collected by filtration and dried to obtain 7.5 g of 1-acetyl-3-[4-(ethoxycarbonylmethoxy)benzyl]imidazolium bromide. (98.6% yield). Colorless hygroscopic amorphous.

reactant | 1-acetylimidazole | 2.2 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | ethyl 4-bromomethylphenoxyacetate | 5.46 g | BrCC1=CC=C(OCC(=O)OCC)C=C1 | C11H13BrO3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-acetyl-3-[4-(ethoxycarbonylmethoxy)benzyl]imidazolium bromide | 7.5 g, 98.6% yield | [Br-].C(C)(=O)[N+]1=CN(C=C1)CC1=CC=C(C=C1)OCC(=O)OCC | InChI=1S/C16H19N2O4.BrH/c1-3-21-16(20)11-22-15-6-4-14(5-7-15)10-17-8-9-18(12-17)13(2)19;/h4-9,12H,3,10-11H2,1-2H3;1H/q+1;/p-1
